US04620870
7-Chloro-1,2-benzisothiazole-1,1-dioxide
A solution of 37 g of 2-t-butyl-3-hydroxy-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide and 0.2 g of tosic acid in 370 mls of benzene was refluxed through a Dean-Stark water separator for 16 hours, cooled in ice and filtered to give 18.9 g of the title compound as colorless crystals, m.p. 162°-164° C.

reactant | 2-t-butyl-3-hydroxy-7-chloro-2,3-dihydro-1,2-benzisothiazole-1,1-dioxide | 37 g | C(C)(C)(C)N1S(C2=C(C1O)C=CC=C2Cl)(=O)=O | C11H14ClNO3S
reactant | tosic acid | 0.2 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | water | O | H2O
solvent | benzene | 370 mls | C1=CC=CC=C1 | C6H6
product | 7-Chloro-1,2-benzisothiazole-1,1-dioxide | 18.9 g | ClC1=CC=CC=2C=NS(C21)(=O)=O | C7H4ClNO2S
